US04935414
4-(2,3-Epoxypropoxy)-1H-indole-2-carboxamide is reacted with 1-((4-(2-methoxyethoxy)phenyl)phenylmethyl)piperazine to give 4-(3-(4-((4-(2-methoxyethoxy)phenyl)phenylmethyl)piperazin-1-yl)-2-hydroxypropoxy)-1H-indole-2-carboxamide. The compound obtained is reacted with trifluoroacetic anhydride in a mixture of dioxane and pyridine to give 4-(3-(4-((4-(2-methoxyethoxy)phenyl)phenylmethyl)piperazin-1-yl)-2-hydroxypropoxy)-1H-indole-2-carbonitrile.

reactant | 4-(2,3-Epoxypropoxy)-1H-indole-2-carboxamide | O1C(COC2=C3C=C(NC3=CC=C2)C(=O)N)C1 | C12H12N2O3
reactant | 1-((4-(2-methoxyethoxy)phenyl)phenylmethyl)piperazine | COCCOC1=CC=C(C=C1)C(N1CCNCC1)C1=CC=CC=C1 | C20H26N2O2
product | 4-(3-(4-((4-(2-methoxyethoxy)phenyl)phenylmethyl)piperazin-1-yl)-2-hydroxypropoxy)-1H-indole-2-carboxamide | COCCOC1=CC=C(C=C1)C(N1CCN(CC1)CC(COC1=C2C=C(NC2=CC=C1)C(=O)N)O)C1=CC=CC=C1 | C32H38N4O5
